US07361672B2
37.1 A solution of 30 g 2-(2-aminothiazol-4-yl)-ethyl acetate in 200 ml CH2Cl2 was treated at 0° C. with 2.9 g DMAP under an argon atmosphere. A solution of 38.9 g Boc2O in 50 ml CH2Cl2 was then added dropwise for 30 min. The resulting suspension was stirred at r.t. overnight. The reaction mixture was then washed with 5% aq. KHCO3, H2O, sat. aq. NH4Cl and brine, dried (MgSO4), filtered and concentrated to leave the crude product as a brown viscous oil. The product was isolated by chromatography on silica using EtOAc/cyclohexane 1:2 to give 40.5 g (2-tert-butoxycarbonylamino-thiazol-4-yl)-acetic acid ethyl ester as orange viscous oil. MS 287.0 ([M+H]+)

reactant | 2-(2-aminothiazol-4-yl)-ethyl acetate | 30 g | C(C)(=O)OCCC=1N=C(SC1)N | C7H10N2O2S
reactant | Boc2O | 38.9 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | EtOAc cyclohexane | CCOC(=O)C.C1CCCCC1
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 2.9 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | (2-tert-butoxycarbonylamino-thiazol-4-yl)-acetic acid ethyl ester | 40.5 g | C(C)OC(CC=1N=C(SC1)NC(=O)OC(C)(C)C)=O | C12H18N2O4S
